US07049447B2
After the crude compound of (2R,3R)-3-benzyloxycarbonylamino-4-phenylthio-1,2-butanediol (13.3 g) from the example 10 was dissolved in 110 ml of EtOAc, 4 ml (1.3 equivalent) of pyridine and 5.3 ml (1.2 equivalent) of benzoyl chloride were added to the solution and it was stirred at 5˜10° C. for 5 hours. 3.6 ml (1.2 equivalent) of Ms-Cl was added to the solution and 12.8 ml (2.4 equivalents) of triethyl amine was drop-added in the temperature of below 15° C. After the addition, it was stirred for 30 minutes. 1.5 ml (1 equivalent) of methanol was added to the solution and stirred at room temperature for 1 hour. The resultant solution was rinsed using 90 ml of 1N HCl, 90 ml of 5% NaHCO3 and 50 ml of H2O and distillated under reduced pressure. To the concentrated solution, 180 ml of 1,4-dioxane was added and the solution of 5.56 g (2.2 equivalent) of 85% KOH in 42 ml of H2O was added. The resultant solution was stirred at room temperature for 2 hours. The solution was diluted with 280 ml of water and extracted using 280 ml of toluene. After the toluene layer was rinsed by 170 ml of H2O, 170 ml of 5% NaHCO3 and 170 ml of brine and treated with Na2SO4 anhydride, it was filtered and concentrated under reduced pressure. A white crystal compound of (2S,3R)-3-benzyloxycarbonylamino-4-phenylthio-1-buteneoxide was obtained by column chromatography using Hexane: EtOAc=2:1. mp 61.7° C.

reactant | (2R,3R)-3-benzyloxycarbonylamino-4-phenylthio-1,2-butanediol | 13.3 g | C(C1=CC=CC=C1)OC(=O)N[C@H]([C@H](CO)O)CSC1=CC=CC=C1 | C18H21NO4S
reactant | pyridine | 4 ml, 1.3 equivalent | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 5.3 ml, 1.2 equivalent | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | Ms-Cl | 3.6 ml, 1.2 equivalent | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | triethyl amine | 12.8 ml, 2.4 equivalents | C(C)N(CC)CC | C6H15N
reactant | methanol | 1.5 ml, 1 equivalent | CO | CH4O
reactant | KOH | 5.56 g, 2.2 equivalent | [OH-].[K+]
solvent | EtOAc | 110 ml | CCOC(=O)C | C4H8O2
solvent | H2O | 42 ml | O | H2O
solvent | water | 280 ml | O | H2O
product | (2S,3R)-3-benzyloxycarbonylamino-4-phenylthio-1-buteneoxide | C(C1=CC=CC=C1)OC(=O)N[C@H]([C@H]1CO1)CSC1=CC=CC=C1 | C18H19NO3S
